US08445679B2
ethyl 7-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate
A mixture of 2-bromoaniline (34.2 g) in 5M HCl (50 mL) and water (250 mL) at 0° C. was treated with NaNO2 (13.8 g) in water (200 mL). After addition, sodium acetate (92.3 g) in water (250 mL) and 2-oxo-cyclopentanecarboxylic acid ethyl ester (30 mL) were added. The mixture was stirred for 15 minutes, warmed to 19° C. over two hours and extracted with dichloromethane. The extract was dried (MgSO4), filtered and concentrated. The concentrate was dissolved in 1.1:1 H2SO4:ethanol (30 mL), refluxed overnight, cooled to room temperature, quenched with water (1.5 L), and filtered. The filtrant was dissolved in dichloromethane (200 mL) and filtered through a Flash 75 cartridge with dichloromethane. After concentration, the product was recrystallized from hexane.

reactant | 2-bromoaniline | 34.2 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | NaNO2 | 13.8 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 92.3 g | C(C)(=O)[O-].[Na+]
reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | 30 mL | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
solvent | HCl | 5M, 50 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | ethyl 7-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | BrC=1C=CC=C2C(=C(NC12)C(=O)OCC)CCC(=O)OCC | C16H18BrNO4
